US07829560B2
N-{4-[(2-azetidin-1-ylpyrimidin-4-yl)oxy]-1-naphthyl}-3-fluoro-5-morpholin-4-ylbenzamide (Compound B363).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and azetidine according to conditions described in general procedure C. Mp: 196-197° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.17-2.25 (m, 2 H), 3.23-3.30 (m, 6 H), 3.75-3.78 (m, 4 H), 3.87 (s, 1 H), 6.14 (d, J=5.5 Hz, 1 H), 7.03-7.06 (m, 1 H), 7.25 (d, J=8.8 Hz, 1 H), 7.40-7.63 (m, 5 H), 7.84-7.86 (m, 1 H), 7.99-8.01 (m, 1 H), 8.22 (d, J=5.5 Hz, 1 H), 10.47 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | azetidine | N1CCC1 | C3H7N
product | N-{4-[(2-azetidin-1-ylpyrimidin-4-yl)oxy]-1-naphthyl}-3-fluoro-5-morpholin-4-ylbenzamide | N1(CCC1)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C28H26FN5O3
